Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ year old woman with SLE (currently on no
medications for SLE) who presents with shortness of breath after
plane flight from ___ on ___. 

Her dyspnea on exertion started acutely after she deplaned in
___. She was pulling her suitcase and suddenly felt so
dyspneic and fatigued that she had to have her friend help her
with her luggage. She has an iWatch and said she was watching 
her
heart rates alternate between the ___ and 140s. She said they
were generally elevated to the 110s on the flight from ___ 
to
___. She went home on ___, and on ___ she continued to feel
short of breath even with walking her dog. 

She presented to urgent care clinic on ___ with dyspnea on
exertion. and was found to have elevated d-dimer. She was
referred to the ED and CTA revealed segmental pulmonary emboli
affecting all lobes of the lung. She received Lovenox 60mg
subcutaneously at the urgent care at 8 pm. 

To clarify her SLE history: 
She was initially diagnosed "years ago" after returning from a
ski trip with malar rash and chest pain. She sees a
rheumatologist at ___ (Dr ___. She has had off and on chest
pain for years, which she says no one could explain. She has
previously on Plaquenil, Imuran, and Cytoxan. 

She experienced chest pain and some dyspnea on exertion in 
___.
She reports having labs done at her rheumatologist's office and
she says her rheumatologist said her SLE was not active at that
time. They had debated whether or not she would restart 
treatment
for SLE and decided against it. She had TTE in ___ at ___ which
revealed "leaky valve" and is scheduled to see a cardiologist in
___. 

She says she also did 23 and Me and she reports that this told
her she may have a propensity for blood clots, but she didn't
remember what it was. 

- In the ED, initial vitals were:
T 97.9 HR 84 BP 112/82 RR 18 100% RA

- Labs were notable for:
Trop-T: <0.01 
D-Dimer: 59___

- Studies were notable for:
CTA Chest
Segmental pulmonary emboli affecting all lobes of the lung. No
secondary right heart strain or evidence of pulmonary infarct.
A 4 mm right lower lobe pulmonary nodule. Optional one year
followup chest CT can be performed in a patient with risk
factors.

- The patient was given: Lovenox 60mg sq at 20:20

 
Past Medical History:
Systemic Lupus Erythematosus
History of lupus cerebritis
GERD
Endometriosis
Bilateral salpingo-oophorectomy
Cholecystectomy
Hernia repair as an infant
 
Social History:
___
Family History:
Mother with blood clot
Mother with AML, breast cancer
Father with pancreatitis, DM, stroke
Sister with ___ esophagus
Sister and brother with HLD
 
Physical Exam:
ADMISSION EXAM:
=================
VITALS: ___ 2308 Temp: 97.4 PO BP: 121/72 L Lying HR: 82 
RR:
18 O2 sat: 99% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 1505)
    Temp: 98.1 (Tm 98.8), BP: 104/69 (96-115/58-80), HR: 73
(64-82), RR: 18 (___), O2 sat: 99% (96-100), O2 delivery: RA  
GENERAL: Alert and interactive. In no acute distress.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. No calf 
tenderness.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:00PM BLOOD WBC-6.2 RBC-4.03 Hgb-13.2 Hct-38.6 MCV-96 
MCH-32.8* MCHC-34.2 RDW-13.0 RDWSD-45.6 Plt ___
___ 06:00PM BLOOD Neuts-58.5 ___ Monos-6.1 Eos-2.4 
Baso-0.5 Im ___ AbsNeut-3.62 AbsLymp-2.00 AbsMono-0.38 
AbsEos-0.15 AbsBaso-0.03
___ 06:00PM BLOOD Glucose-100 UreaN-12 Creat-0.9 Na-141 
K-4.3 Cl-106 HCO3-27 AnGap-8*
___ 11:50PM BLOOD Calcium-8.9 Phos-3.5 Mg-2.2
___ 11:50PM BLOOD C3-117 C4-30

DISCHARGE LABS:
===============
___ 11:50PM BLOOD WBC-5.8 RBC-3.88* Hgb-12.4 Hct-36.7 
MCV-95 MCH-32.0 MCHC-33.8 RDW-13.2 RDWSD-45.2 Plt ___
___ 11:50PM BLOOD Glucose-112* UreaN-11 Creat-0.9 Na-143 
K-4.0 Cl-105 HCO3-25 AnGap-13
___ 11:50PM BLOOD C3-117 C4-30

IMAGING:
=========
CTA CHEST ___:
1. Segmental pulmonary emboli affecting all lobes of the lung. 
No secondary 
right heart strain or evidence of pulmonary infarct. 
2. A 4 mm right lower lobe pulmonary nodule. 
  
RECOMMENDATION(S):  For incidentally detected single solid 
pulmonary nodule smaller than 6 mm, no CT follow-up is 
recommended in a low-risk patient, and an optional CT in 12 
months is recommended in a high-risk patient. 

BILATERAL ___ US ___:
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 
  

 
Brief Hospital Course:
___ with history of SLE and was taking vaginal estradiol who 
presents with segmental PEs after flight from ___. 

ACUTE/ACTIVE ISSUES:
====================
# Bilateral pulmonary emboli
Provoked PE in the setting of flight from ___, likely some 
baseline midly hypercoagulable state from SLE (although does not 
appear to be active at this time) and was taking Yuvafem 
(vaginal estradiol). S/p Lovenox 60 mg sc at 8 pm on ___, 
then initiated on Apixaban 10mg BID x 7 days then 5mg BID. 
Hemodynamically stable and comfortable on room air, troponins 
and BNP are normal. She does have a family history of blood 
clots in her mother, and may have a genetic propensity for clots 
based on her 23 and me test. She has been taking vaginal 
estrogen as well. She will need at least 3 months of 
anticoagulation, and given possible baseline hypercoagulability, 
suspect she will need longer term AC. ___, Anti-DsDNA, 
Anti-Cardiolipin Ab pending at time of discharge. Plan for 
outpatient hematology referral for hypercoagulable work up. Can 
follow up with PCP to ensure she is up to date on cancer 
screening.

# SLE: 
Not on current therapy as discussed above. A lupus anticoagulant 
may predispose to VTE; unclear if she has had this tested before 
if she has not had VTE before. Active SLE and a generalized 
inflammatory state could contribute as well, although complement 
within normal limits. Patient can follow up with outpatient 
Rheumatologist, Dr. ___.

CHRONIC/STABLE ISSUES:
======================
# OSA: not on home CPAP. Offered here, was seen by respiratory, 
pt declined

# Chronic nasal congestion: Continue intranasal steroids

# GERD: no longer taking omeprazole. 

TRANSITIONAL ISSUES:
=======================
- Initiated on Apixaban 10mg BID x 7 days then 5mg BID. Duration 
of anticoagulation to be determined in the outpatient setting. 
- Plan for outpatient hematology referral for hypercoagulable 
work up. 
- ___, Anti-DsDNA, Anti-Cardiolipin pending at time of 
discharge.
- Can follow up with PCP to ensure she is up to date on cancer 
screening.
- Stop Yuvafem as concern this may have provoked PE
- Patient can follow up with outpatient Rheumatologist, Dr. 
___.
- Can consider CPAP initiation if patient has OSA.
- Incidental finding of 4 mm right lower lobe pulmonary nodule. 
Per Radiology: For incidentally detected single solid pulmonary 
nodule smaller than 6 mm, no CT follow-up is recommended in a 
low-risk patient, and an optional CT in 12 months is recommended 
in a high-risk patient. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Yuvafem (estradiol) 10 mcg vaginal DAILY 
2. Vitamin B Complex 1 CAP PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Mometasone Nasal Spray  (*NF*) 1 mg Other DAILY 
5. Co Q-10 (coenzyme Q10) 0 unknown oral DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID 
Take the 10mg twice daily thru ___, then 5mg twice daily, as 
outlined in the starter pack.  
2.  Co Q-10 (coenzyme Q10) 10 unknown oral DAILY  
3.  Mometasone Nasal Spray  (*NF*) 1 mg Other DAILY  
4.  Vitamin B Complex 1 CAP PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Bilateral segmental PEs

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

Why you were here?
-You came to the hospital because you were having difficulty 
breathing.

What we did while you were here?
- We found that you have blood clots in your lungs called 
Pulmonary Embolisms. 
- We started you on a new medication called Eliquis to treat 
your blood clots.

What you should do when you go home?
- Please take your Eliquis as prescribed.
- Please follow up with your PCP, ___ and 
Hematologist.

Your ___ Team
 
Followup Instructions:
___